US05041455
B. 3-(4-octyloxy-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
A mixture of methyl iodide (1 ml, 15 mmol) and 3-(4-octyloxy-1,2,5-thiadiazol-3-yl)pyridine (3 mmol) in acetone (5 ml) was stirred at room temperature for 18 h. The title compound precipitated from the solution and was collected by filtration to yield 0.81 g (62%).

reactant | methyl iodide | 15 mmol, 1 ml | CI | CH3I
reactant | 3-(4-octyloxy-1,2,5-thiadiazol-3-yl)pyridine | 3 mmol | C(CCCCCCC)OC=1C(=NSN1)C=1C=NC=CC1 | C15H21N3OS
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-(4-octyloxy-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].C(CCCCCCC)OC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C16H24N3OS.HI/c1-3-4-5-6-7-8-12-20-16-15(17-21-18-16)14-10-9-11-19(2)13-14;/h9-11,13H,3-8,12H2,1-2H3;1H/q+1;/p-1
